US07482340B2
a) 2-Azido-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide
2-Chloro-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide (500 mg), sodium azide (445 mg) and acetonitrile were mixed. Reaction mixture was refluxed for 3 hours. After cooling into room temperature, the reaction mixture was filtered and the filtrate was evaporated to the dryness. 1H-NMR (400 MHz; d6-DMSO) δ: 10.3 (s, 1H), 8.29 (d, 1H, J 2.7 Hz), 8.03 (dd, 1H, J 2.7, 8.8 Hz), 7.47-7.33 (m, 5H), 6.96 (d, 1H, J 8.8 Hz), 6.88-6.85 (m, 3H), 5.12 (dd, 1H, J 2.20, 10.1 Hz), 4.07 (s, 2H), 3.00-2.92 (m, 1H), 2.76-2.70 (m, 1H), 2.19-2.14 (m, 1H), 2.02-1.97 (m, 1H).

reactant | 2-Chloro-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide | 500 mg | ClCC(=O)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H19ClN2O3
reactant | sodium azide | 445 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Azido-N-[6-(2-phenylchroman-6-yloxy)pyridin-3-yl]acetamide | N(=[N+]=[N-])CC(=O)NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C22H19N5O3
